US07893267B2
0.4 g (2.0 mmol) of isoquinoline-3-carboxylic acid and 800 mg (2.1 mmol) HBTU were dissolved in 3.0 mL of DMF and 0.6 mL of DIEA and treated with 0.26 g (1.0 mmol) of 2-amino-6-ethylsulfanyl-1H-benzoimidazole-4-carboxylic acid ethyl ester as described in general procedure A to produce 0.35 g (0.83 mmol, 83%) of 6-ethylsulfanyl-2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carboxylic acid ethyl ester. LCMS: 421 (M+1)+.

reactant | isoquinoline-3-carboxylic acid | 2.0 mmol, 0.4 g | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | HBTU | 2.1 mmol, 800 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-6-ethylsulfanyl-1H-benzoimidazole-4-carboxylic acid ethyl ester | 1.0 mmol, 0.26 g | C(C)OC(=O)C1=CC(=CC=2NC(=NC21)N)SCC | C12H15N3O2S
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 6-ethylsulfanyl-2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carboxylic acid ethyl ester | 0.83 mmol, 0.35 g, 83% | C(C)OC(=O)C1=CC(=CC=2N=C(NC21)NC(=O)C=2N=CC1=CC=CC=C1C2)SCC | C22H20N4O3S
